US08048909B2
1-(2,3-Dihydro-1,4-benzodioxin-6-ylsulfonyl)-5-phenyl-1H-pyrrole-3-carbaldehyde
Using 5-phenyl-1H-pyrrole-3-carbaldehyde (171 mg), sodium hydride (60% in oil, 72 mg), 15-crown-5 (330 mg) and 2,3-dihydro-1,4-benzodioxine-6-sulfonyl chloride (352 mg), a procedure as in Reference Example 219 was performed to give the title compound as a pale-yellow oil (yield 258 mg, 70%).

reactant | 5-phenyl-1H-pyrrole-3-carbaldehyde | 171 mg | C1(=CC=CC=C1)C1=CC(=CN1)C=O | C11H9NO
reactant | sodium hydride | 72 mg | [H-].[Na+]
reactant | 15-crown-5 | 330 mg | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | 2,3-dihydro-1,4-benzodioxine-6-sulfonyl chloride | 352 mg | O1CCOC2=C1C=CC(=C2)S(=O)(=O)Cl | C8H7ClO4S
product | 1-(2,3-Dihydro-1,4-benzodioxin-6-ylsulfonyl)-5-phenyl-1H-pyrrole-3-carbaldehyde | yield 258 mg, 70% | O1CCOC2=C1C=CC(=C2)S(=O)(=O)N2C=C(C=C2C2=CC=CC=C2)C=O | C19H15NO5S
